US05288743
To a solution of methyl 5-t-butylthio-2,2-dimethyl-4-oxopentanoate (33.2 g; 135 mmol), prepared as in Example 1, step 4, in 300 mL toluene and 150 mL acetic acid was added sodium acetate (12.7 g; 155 mmol) followed by 1-(4-chlorobenzyl)-1-[4-(pyrid-2-ylmethoxy)phenyl] hydrazine (48.4 g; 143 mmol), prepared as in step 4. The reaction mixture was stirred in the dark for 5 days, then was poured into water and extracted with ethyl acetate. Solid sodium bicarbonate was added to the extracts and then filtered. The filtrate was washed with water, dried over magnesium sulfate, and the solvent was evaporated. The product was isolated by flash chromatography (40% diethyl ether in hexane) and then recystallized from ethyl acetate/hexane to yield methyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropionate.

reactant | methyl 5-t-butylthio-2,2-dimethyl-4-oxopentanoate | 135 mmol, 33.2 g | C(C)(C)(C)SCC(CC(C(=O)OC)(C)C)=O | C12H22O3S
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 155 mmol, 12.7 g | C(C)(=O)[O-].[Na+]
reactant | 1-(4-chlorobenzyl)-1-[4-(pyrid-2-ylmethoxy)phenyl] hydrazine | 143 mmol, 48.4 g | ClC1=CC=C(CN(N)C2=CC=C(C=C2)OCC2=NC=CC=C2)C=C1 | C19H18ClN3O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | methyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropionate | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC2=NC=CC=C2)SC(C)(C)C)CC(C(=O)OC)(C)C)C=C1 | C31H35ClN2O3S
